US04293560
To a solution of 20.4 g of phthalidyl ester of metampicillin in 100 ml of ethyl acetate there is added a solution of 40 ml of N hydrochloric acid in 120 ml of water. The mixture is maintained under stirring for 45 minutes at room temperature, the organic phase is separated off and the aqueous phase is washed twice with diethyl ether. The aqueous solution is let stand for 20 minutes at 20° C. under reduced pressure, and then it is filtered through asbestos pretreated with hydrochloric acid. To the clear solution thus obtained, there is added, quickly, drop by drop and under stirring a solution of 8 g of 2-methoxyphenoxyacetic acid in 100 ml of water containing 1.76 g of sodium hydroxide. The precipitate which forms is filtered, washed with water and dried on P2O5 at room temperature and under reduced pressure, to give the talampicillin 2-methoxyphenoxyacetate; m.p. 105°-110° C. (dec.).

reactant | metampicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N=C)C(=O)O)C | C17H19N3O4S
reactant | hydrochloric acid | Cl | ClH
reactant | 2-methoxyphenoxyacetic acid | 8 g | COC1=C(OCC(=O)O)C=CC=C1 | C9H10O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 120 ml | O | H2O
solvent | water | 100 ml, 1.76 g | O | H2O
product | talampicillin 2-methoxyphenoxyacetate | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)OC4C=5C=CC=CC5C(=O)O4)C.COC1=C(OCC(=O)[O-])C=CC=C1 | InChI=1S/C24H23N3O6S.C9H10O4/c1-24(2)17(22(31)33-23-14-11-7-6-10-13(14)21(30)32-23)27-19(29)16(20(27)34-24)26-18(28)15(25)12-8-4-3-5-9-12;1-12-7-4-2-3-5-8(7)13-6-9(10)11/h3-11,15-17,20,23H,25H2,1-2H3,(H,26,28);2-5H,6H2,1H3,(H,10,11)/p-1/t15-,16-,17+,20-,23?;/m1./s1
